US08431596B2
[5-(1-Butyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (XX-303)
To a stirred solution of [5-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (0.05 g, 0.128 mmol) in dimethylacetamide (1 ml) was added potassium carbonate (265 mg, 0.192 mmol) followed by 1-bromobutane (13 μl, 0.115 mmol). The mixture was stirred for 18 hours at room temperature, then filtered and concentrated in vacuo. The product was purified by preparatory HPLC to yield the desired product. LCMS: RT: 2.56 min, MI: 446, Method: 2; 1H NMR (DMSO, 300 MHz): 9.42 (s, 1H), 8.84 (s, 1H), 8.47 (s, 1H), 8.25 (s, 1H), 7.64 (d, 2H), 7.57 (d, 1H), 7.40 (dd, 2H), 6.95 (d, 2H), 4.26 (t, 2H), 4.09 (t, 2H), 2.96 (t, 2H), 2.72 (s, 4H), 1.88 (t, 2H), 1.83 (s, 4H), 1.30 (dd, 2H), 0.92 (t, 3H).

reactant | [5-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | 0.128 mmol, 0.05 g | N1N=CC(=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C21H23N7O
reactant | potassium carbonate | 0.192 mmol, 265 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromobutane | 0.115 mmol, 13 μl | BrCCCC | C4H9Br
solvent | dimethylacetamide | 1 ml | CC(=O)N(C)C | C4H9NO
product | [5-(1-Butyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | C(CCC)N1N=CC(=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C25H31N7O
